*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-102_freq port1 port2 PARAMS: Cpar=1.7pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.06
+ C= {Cpar}
+ K1=0.00001
+ K2=0.23
+ K3= {Ind}
+ K4=0.011
+ K5=0.0000095
+ L=1.1168E-06
+ Is=3.25517677
+ a=0.83371746
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2176.83742
.ends EPL3012-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-102_sat port1 port2 PARAMS: Cpar=1.57pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=40
+ R2=0.06
+ C= {Cpar}
+ K1=0.00001
+ K2=0.23
+ K3= {Ind}
+ K4=0.011
+ K5=0.0000095
+ L=1.1168E-06
+ Is=3.25517677
+ a=0.83371746
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2176.83742
.ends EPL3012-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-152_freq port1 port2 PARAMS: Cpar=1.48pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=0.069
+ C= {Cpar}
+ K1=0.00001
+ K2=0.29
+ K3= {Ind}
+ K4=0.012
+ K5=0.0000095
+ L=1.4298E-06
+ Is=2.92374767
+ a=0.85407175
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2660.03785
.ends EPL3012-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-152_sat port1 port2 PARAMS: Cpar=1.40pF Ind=1.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=45
+ R2=0.069
+ C= {Cpar}
+ K1=0.00001
+ K2=0.29
+ K3= {Ind}
+ K4=0.012
+ K5=0.0000095
+ L=1.4298E-06
+ Is=2.92374767
+ a=0.85407175
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2660.03785
.ends EPL3012-152_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-182_freq port1 port2 PARAMS: Cpar=1.42pF Ind=1.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=65
+ R2=0.076
+ C= {Cpar}
+ K1=0.00001
+ K2=0.33
+ K3= {Ind}
+ K4=0.014
+ K5=0.0000095
+ L=1.7396E-06
+ Is=2.76743663
+ a=0.82664941
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2827.64964
.ends EPL3012-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-182_sat port1 port2 PARAMS: Cpar=1.34pF Ind=1.8uH
X1 port1 port2 Model1C PARAMS:
+ R1=65
+ R2=0.076
+ C= {Cpar}
+ K1=0.00001
+ K2=0.33
+ K3= {Ind}
+ K4=0.014
+ K5=0.0000095
+ L=1.7396E-06
+ Is=2.76743663
+ a=0.82664941
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2827.64964
.ends EPL3012-182_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-222_freq port1 port2 PARAMS: Cpar=1.82pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=0.097
+ C= {Cpar}
+ K1=0.00001
+ K2=0.46
+ K3= {Ind}
+ K4=0.017
+ K5=0.0000097
+ L=2.2903E-06
+ Is=2.75672224
+ a=0.80689099
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3573.79198
.ends EPL3012-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-222_sat port1 port2 PARAMS: Cpar=1.73pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=45
+ R2=0.097
+ C= {Cpar}
+ K1=0.00001
+ K2=0.46
+ K3= {Ind}
+ K4=0.017
+ K5=0.0000097
+ L=2.2903E-06
+ Is=2.75672224
+ a=0.80689099
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3573.79198
.ends EPL3012-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-332_freq port1 port2 PARAMS: Cpar=2.74pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.136
+ C= {Cpar}
+ K1=0.00003
+ K2=0.62
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000097
+ L=3.4805E-06
+ Is=2.40932317
+ a=0.73203058
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4008.80763
.ends EPL3012-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-332_sat port1 port2 PARAMS: Cpar=2.58pF Ind=3.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=35
+ R2=0.136
+ C= {Cpar}
+ K1=0.00003
+ K2=0.62
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000097
+ L=3.4805E-06
+ Is=2.40932317
+ a=0.73203058
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4008.80763
.ends EPL3012-332_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-472_freq port1 port2 PARAMS: Cpar=2.07pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.165
+ C= {Cpar}
+ K1=0.00003
+ K2=0.89
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000097
+ L=4.5185E-06
+ Is=1.93627723
+ a=0.6378912
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5827.46023
.ends EPL3012-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-472_sat port1 port2 PARAMS: Cpar=1.97pF Ind=4.7uH
X1 port1 port2 Model1C PARAMS:
+ R1=35
+ R2=0.165
+ C= {Cpar}
+ K1=0.00003
+ K2=0.89
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000097
+ L=4.5185E-06
+ Is=1.93627723
+ a=0.6378912
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5827.46023
.ends EPL3012-472_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-103_freq port1 port2 PARAMS: Cpar=2.17pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.316
+ C= {Cpar}
+ K1=0.00008
+ K2=2.05
+ K3= {Ind}
+ K4=0.073
+ K5=0.0000098
+ L=1.0075E-05
+ Is=1.41497728
+ a=0.66955425
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10902.6159
.ends EPL3012-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-103_sat port1 port2 PARAMS: Cpar=2.08pF Ind=10uH
X1 port1 port2 Model1C PARAMS:
+ R1=40
+ R2=0.316
+ C= {Cpar}
+ K1=0.00008
+ K2=2.05
+ K3= {Ind}
+ K4=0.073
+ K5=0.0000098
+ L=1.0075E-05
+ Is=1.41497728
+ a=0.66955425
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10902.6159
.ends EPL3012-103_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL3012-223_freq port1 port2 PARAMS: Cpar=2.35pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.718
+ C= {Cpar}
+ K1=0.00003
+ K2=4.15
+ K3= {Ind}
+ K4=0.118
+ K5=0.0000098
+ L=2.231E-05
+ Is=0.91267943
+ a=0.62172027
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18097.603
.ends EPL3012-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL3012-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL3012-223_sat port1 port2 PARAMS: Cpar=2.28pF Ind=22uH
X1 port1 port2 Model1C PARAMS:
+ R1=40
+ R2=0.718
+ C= {Cpar}
+ K1=0.00003
+ K2=4.15
+ K3= {Ind}
+ K4=0.118
+ K5=0.0000098
+ L=2.231E-05
+ Is=0.91267943
+ a=0.62172027
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18097.603
.ends EPL3012-223_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 N001 Lin {R2}
R3 Lout N001 {PkZ}
C1 N002 N001 {C}
R1 Lout N002 {R1}
E1 N003 N001 N004 0 1
G1 0 N004 VALUE={{L*Is}*tanh((I(E1)/{Is})**{a})**{1/a}}
L1 N004 0 1
E2 N003 Lout N005 0 1
G2 0 N005 VALUE={{L*Is}*tanh((I(E2)/{Is})**{a})**{1/a}}
L2 N005 0 1
.ends Model1C
*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
